US04992576
Following the general procedure of Example 92B, 1.63 g of 6-(4-methoxyphenyl)-5-hexenyl alcohol were converted to its mesyl ester and reacted with 2.45 g of 5-(3-cyanobenzoyl)-2-hydroxybenzenepropanoic acid methyl ester to provide 1.34 g of 5-(3-cyanobenzoyl)-2{[6-(4-methoxyphenyl)-5-hexenyl]oxy]benzenepropanoic acid methyl ester, m.p. 65°-67° C.

reactant | 6-(4-methoxyphenyl)-5-hexenyl alcohol | 1.63 g | COC1=CC=C(C=C1)C=CCCCCO | C13H18O2
reactant | 5-(3-cyanobenzoyl)-2-hydroxybenzenepropanoic acid methyl ester | 2.45 g | COC(CCC1=C(C=CC(=C1)C(C1=CC(=CC=C1)C#N)=O)O)=O | C18H15NO4
product | 5-(3-cyanobenzoyl)-2{[6-(4-methoxyphenyl)-5-hexenyl]oxy]benzenepropanoic acid methyl ester | 1.34 g | COC(CCC1=C(C=CC(=C1)C(C1=CC(=CC=C1)C#N)=O)OCCCCC=CC1=CC=C(C=C1)OC)=O | C31H31NO5
